Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[C:11]([H:12])([H:13])[O:14][H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],1.0678491152299998
[H:6].[O:1][C:2]([H:3])([H:4])[C:5]#[C:7][O:8][C:9]([H:10])[H:11]>>[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7]/[O:8][C:9]([H:10])[H:11],-2.9540723856299995
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]#[C:4][H:5],1.87100349821
[H:1][C:2]#[C:3][C:4]([H:5])[C:7]([H:8])([H:9])[O:10][H:11].[H:6]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11],-3.9911942517300014
[C:4]([H:5])[H:6].[O:1]=[C:2]([O:3])[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10],-5.17701758924
[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:9],4.2898986512300015
[O:1]=[C:2]([H:3])/[C:4]=[C:5](/[H:6])[C:9]([H:10])([H:11])[H:12].[O:7][H:8]>>[O:1]=[C:2]([H:3])[C:4][C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-3.10197389164
[H:1][C:2][C:3]([H:4])([H:5])[O:6][O:7][C:8]#[C:9][H:10]>>[H:1][C:2]=[C:3]([H:4])[H:5].[O:6][O:7][C:8]#[C:9][H:10],0.340057424389
[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.5928083008
[H:1][C:2]#[C:3][C@:5]([H:6])([O:7][H:8])[C:9]([H:10])[H:11].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])[H:11],-1.97627630247
[C:4]([H:5])#[C:6][C:7]([H:8])[O:9][H:10].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6]=[C:7]([H:8])[O:9][H:10],-3.3891085393
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]1/[C:8][C:9]1([H:10])[H:11]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]#[C:8][C:9]([H:10])[H:11],-2.61947512325
[O:1][O:2][C:3]([H:4])([H:5])[H:6]>>[C:3]([H:4])([H:5])[H:6].[O:1]=[O:2],1.5024586240600002
[C:1]=[O:2].[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],1.09527145692
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:4]([H:5])([H:6])=[C:7][O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][C:2][H:3],3.71291378105
[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][C:2]([H:3])[O:4][C:5]#[C:6][H:7],2.91213567586
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[C:8]=[C:9]([H:10])[H:11].[H:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7],2.84427146701
[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16],-4.18760694329
[O:1]=[C:2][H:3].[O:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10],-1.21821400593
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12]>>[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11],3.11791850128
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3]([H:4])([H:5])[O:6][C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2],5.22766966552
[C:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])=[C:10][H:11].[H:1][C:2]=[C:12]([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-1.4659833518599998
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[O:10][H:11]>>[C:5]([H:6])[O:7][C:8]([H:9])[O:10][H:11].[H:1][C:2]#[C:3][H:4],1.63106912065
[H:1][C:2]([H:3])[C:4]([C:5][C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:5][C:6]([H:7])([H:8])[H:9].[H:1][C:2]([H:3])=[C:4]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],0.90868284
[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:7][C:8]([H:9])=[C:10]([H:11])[H:12].[H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-4.86780365154
[C:1].[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-7.24146689224
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][O:12]>>[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][O:12],3.86098114206
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12]>>[C:9]=[C:10]([H:11])[H:12].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][H:8],7.184683628010001
[H:1].[O:2]=[C:3]([C:4][C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3](=[C:4]/[C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13],-2.80245284408
